US06642229B2
A solution of 3′-aminobiphenyl-2-carbonitrile (10.9 g, 56 mmol) in 1,4-dioxane (30 ml) was treated with a solution of 25% aqueous sulfuric acid (150 ml). The resulting suspension was cooled to 0° C. before being treated dropwise over 10 minutes with a solution of sodium nitrite (4.6 g, 67 mmol) in water (10 ml). After stirring at 0° C. for 30 minutes the reaction was poured into hot (70° C.) water (500 ml). On cooling to ambient temperature the product was extracted into ethyl acetate (500 ml), the organics were washed with water (300 ml), brine (300 ml) and dried over anhydrous sodium sulfate. Filtration and concentration in vacuo afforded 3′-hydroxybiphenyl-2-carbonitrile as a dark oil (7.1 g, 65%): δH (400 MHz, CDCl3) 5.40 (1H, br), 6.92 (1H, ddd, J 8, 3 and 1), 7.04 (1H, dd, J 3 and 3), 7.11 (1H, ddd, J 8, 3 and 1), 7.35 (1H, dd, J 8 and 8), 7.44 (1H, ddd, J 8, 8 and 1), 7.51 (1H, dd, J 8 and 1), 7.64 (1H, ddd, J 8, 8 and 1), 7.75 (1H, dd, J 8 and 1). 3′-Hydroxybiphenyl-2-carbonitrile (0.48 g, 2.47 mmol) and dry pyridine (0.98 g, 12.35 mmol) were dissolved in dichloromethane (7 ml) and cooled to 0° C. before dropwise addition of trifluoromethanesulfonic anhydride (1.04 g, 3.70 mmol) over 5 min. The mixture was stirred at 0° C. for 10 min and then at 25° C. for 1 h. The solvent was evaporated in vacuo and the residue partitioned between ethyl acetate (200 ml) and water (150 ml). The organic layer was washed with brine (150 ml), dried over anhydrous sodium sulfate and evaporated to give a brown oil. Purification by silica gel chromatography eluting with isohexane on a gradient of ethyl acetate (0-30%) gave trifluoromethanesulfonic acid 2′-cyanobiphenyl-3-yl ester as a yellow oil (544 mg, 67%): δH (400 MHz, CDCl3) 7.37 (1H, ddd, J 8, 3 and 1), 7.39 (1H, dd, J 3 and 3), 7.50-7.60 (2H, m), 7.61-7.65 (2H, m), 7.64 (1H, td, J 8 and 1), 7.80 (1H, dd, J 8 and 1).

reactant | 3′-aminobiphenyl-2-carbonitrile | 56 mmol, 10.9 g | NC=1C=C(C=CC1)C=1C(=CC=CC1)C#N | C13H10N2
reactant | sulfuric acid | 150 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 67 mmol, 4.6 g | N(=O)[O-].[Na+]
solvent | 1,4-dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | water | 10 ml | O | H2O
solvent | water | 500 ml | O | H2O
product | 3′-hydroxybiphenyl-2-carbonitrile | 7.1 g, 65% | OC=1C=C(C=CC1)C=1C(=CC=CC1)C#N | C13H9NO
